US08455646B2
Preparation of (S)-quinuclidin-3-yl 2-phenyl-2-(phenylamino)-acetate (C106)
To a solution of 2-phenyl-2-(phenylamino)acetic acid (I1) (500 mg, 2.20 mmol), (R)-quinuclidin-3-ol (280 mg, 2.20 mmol) and triphenylphosphine (577 mg, 2.20 mmol) in dry THF (7 mL) cooled at 0° C., is added (E)-diethyl diazene-1,2-dicarboxylate (0.35 mL, 2.20 mmol) and the reaction is stirred for 2 hours at RT. The solvent is removed under vacuum and the residue is taken up with EtOAc, washed with 5% NaHCO3 and brine, dried over Na2SO4 and evaporated to dryness. The resulting yellow oil is purified by flash chromatography (EtOAc/MeOH/NH4OH=90/10/0.1 to 70/30/0.1) to obtain desired product as a white powder (78.0 mg, 10% yield, mixture of diasteroisomer).

reactant | 2-phenyl-2-(phenylamino)acetic acid | 2.20 mmol, 500 mg | C1(=CC=CC=C1)C(C(=O)O)NC1=CC=CC=C1 | C14H13NO2
reactant | (R)-quinuclidin-3-ol | 2.20 mmol, 280 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
reactant | triphenylphosphine | 2.20 mmol, 577 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (E)-diethyl diazene-1,2-dicarboxylate | 2.20 mmol, 0.35 mL | N(=N\C(=O)OCC)/C(=O)OCC | C6H10N2O4
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | (S)-quinuclidin-3-yl 2-phenyl-2-(phenylamino)-acetate | 78.0 mg, 10% yield | C1(=CC=CC=C1)C(C(=O)O[C@@H]1CN2CCC1CC2)NC2=CC=CC=C2 | C21H24N2O2
